US04421758
(b) 1-{Trans-β-[6-(2,4-dichlorophenoxymethyl)tetrahydropyran-2-yloxyl]-2,4-dichlorophenethyl}imidazole
A mixture of 163 mg of imidazole, 317 mg of the isomer of lesser polarity of trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran and 180 mg of sodium iodide in 5 ml of dimethylformamide was stirred whilst heating at 130° C. for 10 hours, and then treated and purified as in Example 34(b)(i), to give 136 mg of the isomer of lesser polarity of the title compound, as a colourless oil.

reactant | imidazole | 163 mg | N1C=NC=C1 | C3H4N2
reactant | trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CBr)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H19BrCl4O3
reactant | sodium iodide | 180 mg | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-{Trans-β-[6-(2,4-dichlorophenoxymethyl)tetrahydropyran-2-yloxyl]-2,4-dichlorophenethyl}imidazole | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CN2C=NC=C2)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C23H22Cl4N2O3
